US04931474
1.2 g of 1-benzylthio-3-chloro-n-propane, synthesized by ◯1 of Synthesis Example 2 was dissolved in 50 ml of acetic acid, and 8.7 g of 35% aqueous hydrogen peroxide was added thereto dropwise under stirring below 10° C. After that, it was warmed gradually to room temperature again, then stirred further for 4 hours. The reaction mixture was poured in 300 ml of iced water, and extracted 2 times by each 150 ml of methylene chloride. The methylene chloride layer was washed 2 times with 5% aqueous solution of sodium hydroxide, followed by water, and dried over anhydrous magnesium sulfate. A colorless solid residue was obtained by distilling off methylene chloride. It was washed by n-hexane to give 12.6 g (yield: 96.9%) of the object 1-benzylsulfinyl-3-chloro-n-propane as a colorless crystal. m.p. 70° to 71° C.

reactant | 1-benzylthio-3-chloro-n-propane | 1.2 g | C(C1=CC=CC=C1)SCCCCl | C10H13ClS
reactant | hydrogen peroxide | 8.7 g | OO | H2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 1-benzylsulfinyl-3-chloro-n-propane | yield: 96.9% | C(C1=CC=CC=C1)S(=O)CCCCl | C10H13ClOS
